US07705042B2
a) 2-{4-[3-(4-Methyl-piperidin-1-yl)-4-nitro-phenyl]-piperazin-1-yl}-ethanol
The procedure of Example 4, step (b) was followed using 810 mg (3.18 mmol) of 1-(5-chloro-2-nitro-phenyl)-4-methyl-piperidine (as prepared in the Example 12, step (a)) and 1.95 mL (15.9 mmol) of 1-(2-hydroxyethyl)piperazine for 14 h to afford 1.11 g (100%) of the title compound as a yellow solid: Mass spectrum (ESI, m/z): Calcd. for C18H28N4O3, 349.2 (M+H), found 349.2.

reactant | 1-(5-chloro-2-nitro-phenyl)-4-methyl-piperidine | 3.18 mmol, 810 mg | ClC=1C=CC(=C(C1)N1CCC(CC1)C)[N+](=O)[O-] | C12H15ClN2O2
reactant | 1-(2-hydroxyethyl)piperazine | 15.9 mmol, 1.95 mL | OCCN1CCNCC1 | C6H14N2O
product | 2-{4-[3-(4-Methyl-piperidin-1-yl)-4-nitro-phenyl]-piperazin-1-yl}-ethanol | 1.11 g, 100% | CC1CCN(CC1)C=1C=C(C=CC1[N+](=O)[O-])N1CCN(CC1)CCO | C18H28N4O3
